US05665718
A suspension of 1.04 g (3.0 mmol) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]-[1,4]benzodiazepin-6-one in 10 ml of N,N-dimethylformamide was treated with 1.27 ml (9.0 mmol) of diisopropylamine. After stirring at room temperature for 18 hrs. the solution obtained was concentrated and the residue was taken up in 10 ml of water and stirred in an ultrasound bath for 2 hrs. The crystals were filtered off under suction and dissolved in methylene chloride, and the solution was dried with sodium sulfate, is filtered and evaporated. The crude material was chromatographed on silica gel (ethyl acetate), dissolved in acetonitrile and acidified with ethereal hydrochloric acid. The solution was again evaporated and the residue was recrystallized from acetonitrile. After drying in a vacuum there were obtained 542 mg (38%) of 3-(5-diisopropylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as white crystals of m.p. 173°-178° (dec.).

reactant | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]-[1,4]benzodiazepin-6-one | 3.0 mmol, 1.04 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C15H11ClFN5O2
reactant | diisopropylamine | 9.0 mmol, 1.27 ml | C(C)(C)NC(C)C | C6H15N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(5-diisopropylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 542 mg, 38% | C(C)(C)N(C(C)C)CC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C21H25FN6O2
